US05489570
Ethyl 4-chloro-3-nitrobenzoate (10 g) and benzyl mercaptan (5.41 g) were dissolved in N,N-dimethylformamide and whilst stirring, lithium hydroxide monohydrate (1.83 g) was added. The mixture was stirred overnight then poured into ether and 2N hydrochloric acid. The organic phase was washed with water, dried over anhydrous magnesium sulphate and evaporated to yield ethyl 4-benzylthio-3-nitrobenzoate (10.16 g), obtained as an oil, NMR (CDCl3) δ1.41 (3H, t), 4.24 (2H,s), 4.40 (2H,q), 7.3-7.47 (5H), 7.53 (1H,d), 8.14 (1H,dd), 8.86 (1H,d).

reactant | Ethyl 4-chloro-3-nitrobenzoate | 10 g | ClC1=C(C=C(C(=O)OCC)C=C1)[N+](=O)[O-] | C9H8ClNO4
reactant | benzyl mercaptan | 5.41 g | C(C1=CC=CC=C1)S | C7H8S
reactant | lithium hydroxide monohydrate | 1.83 g | O.[OH-].[Li+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
product | ethyl 4-benzylthio-3-nitrobenzoate | 10.16 g | C(C1=CC=CC=C1)SC1=C(C=C(C(=O)OCC)C=C1)[N+](=O)[O-] | C16H15NO4S
